US09260413B2
To a mixture of 5-(benzyloxy)-2-(2-chloropyridin-4-yl)pyrimidin-4-ol (14.2 g, 112 mmol), Cs2CO3(36.6 g, 112 mmol) in 300 mL of 1,4-dioxane, was added Me2SO4 (17.6 g, 56 mmol) and the resulting mixture was refluxed for 5 min. After cooling to rt, EtOAc (300 mL) and water (200 mL) were added. The organic layer was separated, the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layer was washed with water, brine, and dried over Mg2SO4, filtered, and concentrated to give 25 g of crude compound, which was purified by silica gel to afford 5-(benzyloxy)-2-(2-chloropyridin-4-yl)-3-methylpyrimidin-4(3H)one (4.0 g, 22%). 1H-NMR δ (400 MHz, d6-DMSO): 8.53 (dd, J=5.2, 0.4 Hz, 1H), 7.51 (s, 1H), 7.44 (m, 3H), 7.42-7.29 (m, 4H), 5.19 (s, 2H), 3.33 (s, 3H); MS (ESI) m/z (M+H)+ 328.

reactant | 5-(benzyloxy)-2-(2-chloropyridin-4-yl)pyrimidin-4-ol | 112 mmol, 14.2 g | C(C1=CC=CC=C1)OC=1C(=NC(=NC1)C1=CC(=NC=C1)Cl)O | C16H12ClN3O2
reactant | Cs2CO3 | 112 mmol, 36.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Me2SO4 | 56 mmol, 17.6 g | COS(=O)(=O)OC | C2H6O4S
reactant | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
solvent | water | 200 mL | O | H2O
product | 5-(benzyloxy)-2-(2-chloropyridin-4-yl)-3-methylpyrimidin-4(3H)one | 4.0 g, 22% | C(C1=CC=CC=C1)OC=1C(N(C(=NC1)C1=CC(=NC=C1)Cl)C)=O | C17H14ClN3O2
